US04996216
At room temperature (about 20° C.), 4.9 g of 4-(6-chloro-2-pyridinyloxy)-phenol in 40 ml of anhydrous dimethylformamide is dripped into 9.6 g of 100% strength sodium hydride in 20 ml of anhydrous dimethylformamide. To complete the exothermic reaction (evolution of hydrogen) the mixture is stirred for 30 minutes at 50° C. Subsequently, 4 g of 5-chloromethyl-2-ethoxy-1,3,4-thiadiazole in 20 ml of anhydrous dimethylformamide is dripped in and the mixture is stirred for 2 hours at 60° C. and overnight at room temperature. The mixture is then poured into 200 ml of ice water. The crude product which crystallizes out is filtered off and recrystallized from isopropanol. There is obtained 5.4 g of 5-[4-(6-chloro-2-pyridinyloxy)-phenoxymethyl]-2-ethoxy-1,3,4-thiadiazole of m.p.: 92° C.-94° C.

reactant | 4-(6-chloro-2-pyridinyloxy)-phenol | 4.9 g | ClC1=CC=CC(=N1)OC1=CC=C(C=C1)O | C11H8ClNO2
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 5-chloromethyl-2-ethoxy-1,3,4-thiadiazole | 4 g | ClCC1=NN=C(S1)OCC | C5H7ClN2OS
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-[4-(6-chloro-2-pyridinyloxy)-phenoxymethyl]-2-ethoxy-1,3,4-thiadiazole | 5.4 g | ClC1=CC=CC(=N1)OC1=CC=C(OCC2=NN=C(S2)OCC)C=C1 | C16H14ClN3O3S
